US09428509B2
(S)—N,3-Dimethyl-4-((5-(2-methylbenzo[d]oxazol-6-yl)-4-((tetrahydrofuran-3-yl)oxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-yl)amino)benzamide
To a solution of (S)-6-(2-chloro-4-((tetrahydrofuran-3-yl)oxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methylbenzo[d]oxazole (1 equiv), 4-amino-N,3-dimethylbenzamide (1 equiv), tris(dibenzylideneacetone)dipalladium(0) (0.1 equiv), xantphos (0.2 equiv) in 1,4-dioxane (0.1 M) was added cesium carbonate (1.4 equiv). The reaction was heated, under with microwave irradiation, in a microwave reactor at 150° C. for 2 h. The reaction mixture was quenched with saturated aqueous sodium chloride and then washed with ethyl acetate. The organic phase was combined and washed with saturated aqueous sodium chloride. The organic layer was dried (magnesium sulfate), filtered, and concentrated. The crude was purified by silica gel column chromatography (20-80% ethyl acetate, with 10% 1N ammonia in MeOH in hexane). Concentration of the desired fractions afforded the title compound (63.6% yield) as a yellow solid; MS (ESI) m/z 629.4 [M+1]+.

reactant | (S)-6-(2-chloro-4-((tetrahydrofuran-3-yl)oxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methylbenzo[d]oxazole | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2C2=CC1=C(N=C(O1)C)C=C2)COCC[Si](C)(C)C)O[C@@H]2COCC2 | C24H29ClN4O4Si
reactant | 4-amino-N,3-dimethylbenzamide | 1 equiv | NC1=C(C=C(C(=O)NC)C=C1)C | C9H12N2O
reactant | xantphos | 0.2 equiv | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 1.4 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 0.1 M | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.1 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (S)—N,3-Dimethyl-4-((5-(2-methylbenzo[d]oxazol-6-yl)-4-((tetrahydrofuran-3-yl)oxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-yl)amino)benzamide | 63.6% yield | CNC(C1=CC(=C(C=C1)NC=1N=C(C2=C(N1)N(C=C2C2=CC1=C(N=C(O1)C)C=C2)COCC[Si](C)(C)C)O[C@@H]2COCC2)C)=O | C33H40N6O5Si
